US04810819
Preparation of the compound 2-ethyl-2-(6-methoxy-2-naphthyl)-1,3-dioxolane-4(R),5(R)-dicarboxylic acid dimethyl ester
1-(6-methoxy-2-naphthyl)-propan-1-one (46.5 g; 0.217 moles), L(+)tartaric acid dimethyl ester (300 g), trimethyl orthoformate (94 g; 0.887 moles) are gradually heated up to complete solution. Methanesulphonic acid (1.48 g; 0.0154 moles) is then added and the obtained solution is refluxed for 2 hours; it is cooled at room temperature and the reaction mixture is slowly added to a 10% solution of Na2CO3 (500 ml). It is extracted with methylene chloride and the organic extracts are repeatedly washed with water. The organic phase is dried on Na2SO4 and the solvent is evaporated under reduced pressure. The residue is crystallized from methanol (250 ml). The desired product is obtained (51.68 g; 0.138 moles; yield 63.6%) having the following characteristics:

reactant | 1-(6-methoxy-2-naphthyl)-propan-1-one | 0.217 moles, 46.5 g | COC=1C=C2C=CC(=CC2=CC1)C(CC)=O | C14H14O2
reactant | L(+)tartaric acid dimethyl ester | 300 g | COC([C@H](O)[C@@H](O)C(=O)OC)=O | C6H10O6
reactant | trimethyl orthoformate | 0.887 moles, 94 g | C(OC)(OC)OC | C4H10O3
reactant | Methanesulphonic acid | 0.0154 moles, 1.48 g | CS(=O)(=O)O | CH4O3S
solvent | Na2CO3 | 500 ml | C(=O)([O-])[O-].[Na+].[Na+]
product | 2-ethyl-2-(6-methoxy-2-naphthyl)-1,3-dioxolane-4(R),5(R)-dicarboxylic acid dimethyl ester | yield 63.6% | COC(=O)[C@@H]1OC(O[C@H]1C(=O)OC)(C1=CC2=CC=C(C=C2C=C1)OC)CC | C20H22O7
